US07737152B2
2-(3,4,5-trimethoxyphenylamino)-6-(naphthalen-2-yloxy)pyrazine, CJS 717
Using Method X, with 200 mg of 2-(3,4,5-trimethoxyphenylamino)-6-chloropyrazine (all amounts scaled accordingly) and 2-naphthol, 78 mg of the title compound were obtained.

reactant | 2-(3,4,5-trimethoxyphenylamino)-6-chloropyrazine | 200 mg | COC=1C=C(C=C(C1OC)OC)NC1=NC(=CN=C1)Cl | C13H14ClN3O3
reactant | 2-naphthol | C1=C(C=CC2=CC=CC=C12)O | C10H8O
product | 2-(3,4,5-trimethoxyphenylamino)-6-(naphthalen-2-yloxy)pyrazine | 78 mg, Yield: 38% | COC=1C=C(C=C(C1OC)OC)NC1=NC(=CN=C1)OC1=CC2=CC=CC=C2C=C1 | C23H21N3O4
